US06313312B1
N-[3-(3-Benzyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide
To a solution of 3-(3-benzyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine (Preparation 30, 1.58 g, 5.68 mmol) in pyridine (10 ml) under nitrogen at 0° C. was added methanesulphonyl chloride (0.66 ml, 8.52 mmol) dropwise to the solution, and the mixture was stirred for 14 hours at room temperature. The pyridine was evaporated in vacuo and the residue was partitioned between dichloromethane (50 ml) and dilute aqueous sodium hydrogen carbonate solution (1 M, 50 ml). The layers were separated and the organic extract was dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by silica (60 g) column chromatography eluting with ethyl acetate:hexane (5:95) then ethyl iacetate:hexane:triethylamine (5:95:0.1 increasing to 80:20:0.1). Appropriate fractions were combined and concentrated in vacuo to give the title compound as an off-white solid (1 g, 50%).

reactant | 3-(3-benzyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 5.68 mmol, 1.58 g | C(C1=CC=CC=C1)N1CC2C(C2C1)(C)C=1C=C(C=CC1)N | C19H22N2
reactant | methanesulphonyl chloride | 8.52 mmol, 0.66 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(3-Benzyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]methanesulfonamide | 1 g, 50% | C(C1=CC=CC=C1)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C | C20H24N2O2S
